US06645939B1
N-(3,5-Dichlorobenzenesulfonyl)-2(S)-prolyl-3(R)-amino-3-(4-(N-pyrrolidinyl-carbonyloxy)phenyl)propionic Acid
N-(3,5-Dichlorobenzenesulfonyl)-2-methyl-2(S)-prolyl-3(R)-amino-3-(4-hydroxyphenyl)propionic acid methyl ester, as prepared in Example 28, Step F (50 mg, 0.11 mmol), was dissolved in 1 mL of methylene chloride and treated sequentially at 0° with DIPEA (56 μl, 0.3 mmol) and chlorocarbonyl-N-pyrrolidine (16 mg, 0.12 mmol). The mixture was stirred for 1 hour, then worked up with saturated sodium bicarbonate, extracted with methylene chloride and dried over magnesium sulphate. The solution was filtered, solvent removed in vacuo and the product chromatographed on flash silica gel (70/30 hexane/ethyl acetate) (Rf=0.3). The methyl ester was recovered (42 mg) and subsequently hydrolysed by the procedure described in Example 39, Step F to N-(3,5-dichlorobenzenesulfonyl)-2(S)-prolyl-3(R)-amino-3-(4-(N-pyrrolidinylcarbonyloxy)phenyl)propionic acid (35 mg).

reactant | N-(3,5-Dichlorobenzenesulfonyl)-2-methyl-2(S)-prolyl-3(R)-amino-3-(4-hydroxyphenyl)propionic acid methyl ester | COC([C@@]([C@@H](C1=CC=C(C=C1)O)NS(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)(C([C@H]1NCCC1)=O)C)=O | C22H24Cl2N2O6S
reactant | DIPEA | 0.3 mmol, 56 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(3,5-Dichlorobenzenesulfonyl)-2(S)-prolyl-3(R)-amino-3-(4-(N-pyrrolidinyl-carbonyloxy)phenyl)propionic Acid | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N[C@H]([C@H](C(=O)O)C([C@H]1NCCC1)=O)C1=CC=C(C=C1)OC(=O)N1CCCC1 | C25H27Cl2N3O7S
